US07863293B2
Using General Procedure B: Reaction of [3-(1-pyridin-2-yl-ethylamino)-propyl]-carbamic acid tert-butyl ester and 3,5-dimethyl-pyridine-2-carboxaldehyde with NaBH(OAc)3 in CH2Cl2 gave N1-(3,5-Dimethyl-pyridin-2-ylmethyl)-N1-(1-pyridin-2-yl-ethyl)-propane-1,3-diamine as a colorless oil. 1H NMR (CDCl3) δ 1.45-1.66 (m, 7H), 2.25 (s, 3H), 2.26 (s, 3H), 2.42-2.65 (m, 4H), 3.75 (d, 1H, J=12.6 Hz), 3.81 (d, 1H, J=12.6 Hz), 4.01 (q, 1H, J=6.6 Hz), 7.11-7.16 (m, 1H), 7.22 (br s, 1H), 7.38 (d, 1H, J=7.8 Hz), 7.62 (dt, 1H, J=7.8, 1.8 Hz), 8.18 (br s, 1H), 8.55 (d, 1H, J=4.5 Hz).

reactant | [3-(1-pyridin-2-yl-ethylamino)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCNC(C)C1=NC=CC=C1)=O | C15H25N3O2
reactant | 3,5-dimethyl-pyridine-2-carboxaldehyde | CC=1C(=NC=C(C1)C)C=O | C8H9NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N1-(3,5-Dimethyl-pyridin-2-ylmethyl)-N1-(1-pyridin-2-yl-ethyl)-propane-1,3-diamine | CC=1C(=NC=C(C1)C)CN(CCCN)C(C)C1=NC=CC=C1 | C18H26N4
